US04281009
2.0 Grams of 2-(4-hydroxybenzoyl)thiophene were heated together with 5.3 g of potassium cyanide, 17.1 g of ammonium carbonate, 20 ml. of formamide and 10 ml. of water in a stainless steel bomb with occasional stirring at 120° C. for 72 hours. The reaction liquid was adjusted to pH 4 with concentrated hydrochloric acid and then mixed with water to form precipitates. The precipitates thus formed were washed with water, filtered and extracted with ethanol while they were hot. The extract was heated together with a small amount of active carbon under reflux, filtered while it was hot and then cooled to obtain 2.0 g of 5-(4-hydroxyphenyl)-5-(2-thienyl)hydantoin in the form of white crystals.

reactant | 2-(4-hydroxybenzoyl)thiophene | OC1=CC=C(C(=O)C=2SC=CC2)C=C1 | C11H8O2S
reactant | potassium cyanide | 5.3 g | [C-]#N.[K+]
reactant | ammonium carbonate | 17.1 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | formamide | C(=O)N | CH3NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-(4-hydroxyphenyl)-5-(2-thienyl)hydantoin | 2.0 g | OC1=CC=C(C=C1)C1(C(NC(N1)=O)=O)C=1SC=CC1 | C13H10N2O3S
